US07091201B2
To a suspension of NaH (644 mg, 60% in mineral oil) in DME (15 ml) was added ethylene glycol (15 ml). After evolution of gas had ceased, 2-phenyl-ethanesulfonic acid [6-chloro-5-(2-methoxy-phenoxy)-2-pyridin-4-yl-pyrimidin-4-yl]-amide (800 mg) was added and the resulting solution was stirred at 90° C. for 16 h. A further portion of NaH (322 mg) was added and stirring was continued at 90° C. for 4 d. The mixture was diluted with EA (200 ml) and washed once with 10% aq. citric acid and 3 times with water. The organic phase was evaporated and the residue was suspended in diethyl ether. The solid material was collected, washed with diethyl ether and dried to give 2-phenyl-ethanesulfonic acid [6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-2-pyridin-4-yl-pyrimidin-4-yl]-amide (513 mg) as a beige solid. LC-MS: tR=4.05 min, [M+1]+=523.10, [M−1]−=521.24.

reactant | NaH | 644 mg | [H-].[Na+]
reactant | ethylene glycol | 15 ml | C(CO)O | C2H6O2
reactant | 2-phenyl-ethanesulfonic acid [6-chloro-5-(2-methoxy-phenoxy)-2-pyridin-4-yl-pyrimidin-4-yl]-amide | 800 mg | ClC1=C(C(=NC(=N1)C1=CC=NC=C1)NS(=O)(=O)CCC1=CC=CC=C1)OC1=C(C=CC=C1)OC | C24H21ClN4O4S
reactant | NaH | 322 mg | [H-].[Na+]
solvent | DME | 15 ml | COCCOC | C4H10O2
solvent | EA | 200 ml | CC(OCC)=O | C4H8O2
product | 2-phenyl-ethanesulfonic acid [6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-2-pyridin-4-yl-pyrimidin-4-yl]-amide | 513 mg | OCCOC1=C(C(=NC(=N1)C1=CC=NC=C1)NS(=O)(=O)CCC1=CC=CC=C1)OC1=C(C=CC=C1)OC | C26H26N4O6S
